US08426420B2
v) 5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 9.5 g 5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester in 100 ml DMF were added 5.0 g HOBt, 6.3 g EDC and 10.9 ml DIPEA. After 5 minutes 7.9 g L-proline benzyl ester hydrochloride were added and the resulting solution stirred for 16 h. The reaction mixture was concentrated, dissolved in dichloromethane and extracted with aqueous LiCl (4%) and saturated NaHCO3. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using ethyl acetate/heptane 1:1 as eluent. Yield: 13.2 g colorless foam.

reactant | 5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | 9.5 g | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC=CC=C1 | C14H14N2O5
reactant | HOBt | 5.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 10.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | L-proline benzyl ester hydrochloride | 7.9 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | EDC | 6.3 g
product | 5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C26H27N3O6
